US08202873B2
Dissolve 2,4-pentanedione (5.09 g, 50.8 mmol) and benzylhydrazine dihydrochloride (10.91 g, 55.9 mmol) in acetic acid (40 mL). Slowly add triethylamine (15.6 mL, 0.112 mol) and stir the mixture for 18 hr. Concentrate the solution then dilute the residue with saturated aqueous sodium bicarbonate and extract 3 times with ethyl acetate. Dry (sodium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 40:60 hexanes:ethyl acetate), to give 1-benzyl-3,5-dimethyl-1H-pyrazole as a yellow oil (8.703 g, 92%).

reactant | 2,4-pentanedione | 50.8 mmol, 5.09 g | CC(CC(C)=O)=O | C5H8O2
reactant | benzylhydrazine dihydrochloride | 55.9 mmol, 10.91 g | Cl.Cl.C(C1=CC=CC=C1)NN
reactant | triethylamine | 0.112 mol, 15.6 mL | C(C)N(CC)CC | C6H15N
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | 1-benzyl-3,5-dimethyl-1H-pyrazole | 8.703 g, 92% | C(C1=CC=CC=C1)N1N=C(C=C1C)C | C12H14N2
